US04536209
Production of N-[4-bromo-3-(1-ethoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 2.88 g. of 1.52 g. of cyclohexane-1,2-dicarboxylic anhydride 2.88 g. of 4-bromo-3-(1-ethoxycarbonylethyloxy)aniline (nD25 =1.5590) and 10 ml. of acetic acid was refluxed with stirring for 2 hours and the reaction mixture was cooled to room temperature and water was added. The precipitate was separated by a filtration and was recrystallized from a mixture of benzene-cyclohexane to obtain 3.89 g. of Compound No. 18 shown in Table 1.

reactant | cyclohexane-1,2-dicarboxylic anhydride | 2.88 g | C12C(CCCC1)C(=O)OC2=O | C8H10O3
reactant | 4-bromo-3-(1-ethoxycarbonylethyloxy)aniline | BrC1=C(C=C(N)C=C1)OC(C)C(=O)OCC | C11H14BrNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-[4-bromo-3-(1-ethoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(C)C(=O)OCC | C19H20BrNO5
